US05444066
2-(4-Nitroimidazol-1-yl)cyclohexanol
40.0 ml (395 mmol) of cyclohexene oxide and 86.37 g (625 mmol) of potassium carbonate were added to a suspension of 50.08 g (443 mmol) of 4-nitroimidazole in 800 ml of N,N-dimethylformamide. The obtained mixture was stirred under heating at 100° C. for 3 days and 20 hours to give a yellowish-brown suspension. This suspension was cooled by allowing to stand, and filtered to remove insolubles. The filtrate was concentrated in a vacuum. Water was added to the obtained residue to form a crystalline precipitate. This crystalline precipitate was recovered by filtration and washed with water. The obtained crude crystal was dissolved in chloroform and the obtained solution was washed with a saturated aqueous solution of common salt. The organic phase was dried over anhydrous magnesium sulfate and concentrated in a vacuum. In the course of the concentration, a crystal began to precipitate. This crystal was recovered by filtration to give 53.26 g of the title compound as a colorless crystal. Further, the filtrate was recrystallized from dichloromethane/diisopropyl ether to give 5.14 g of the title compound as a light-brown crystal. Thus, 58.30 g of the title compound was obtained in total (yield: 70%).

reactant | cyclohexene oxide | 395 mmol, 40.0 ml | C12C(CCCC1)O2 | C6H10O
reactant | potassium carbonate | 625 mmol, 86.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitroimidazole | 443 mmol, 50.08 g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
solvent | N,N-dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Nitroimidazol-1-yl)cyclohexanol | 53.26 g | [N+](=O)([O-])C=1N=CN(C1)C1C(CCCC1)O | C9H13N3O3
